US07683026B2
V. Preparation of Ac-D-Lys(Z)-D-Pro-OH (XI)
The Ac-D-Lys(Z)-D-Pro-OBzl compound obtained at the previous steps (in theory: 230 mmol) is mixed with 313 ml of methanol, added with 313 ml of 1N NaOH (313 mmol, 1.36 eq), and stirred overnight at room temperature. The reaction completion is CCM controlled. Thereafter, diisopropyl ether is added (313 ml, 11 vol.), the medium is decanted and the aqueous phase is extracted again three times with 3×150 ml of diisopropyl ether. The aqueous phase is then poured onto a blend of 540 ml of dichloromethane and 70 ml of aqueous 4N HCl (1.2 eq). The blend is stirred for 15 minutes and decanted. The separated organic phase is washed with water followed by a NaCl saturated aqueous solution (110 ml, 4 vol. each time). The organic phase is dried on Na2SO4 and vacuum concentrated (40° C. max, 50 mbar max.). The thus obtained product 94.25 g has the form of a foam (yield=98% calculated based on the involved Boc-D-Lys(Z)-OH).

reactant | Ac-D-Lys(Z)-D-Pro-OBzl | N([C@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)C | C28H35N3O6
reactant | NaOH | 313 mmol, 1N, 313 ml, 1.36 eq | [OH-].[Na+]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | HCl | 4N, 1.2 eq | Cl | ClH
solvent | dichloromethane | 540 ml | ClCCl | CH2Cl2
solvent | methanol | 313 ml | CO | CH4O
product | Ac-D-Lys(Z)-D-Pro-OH | yield=98% | N([C@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1[C@@H](C(=O)O)CCC1)C(=O)C | C21H29N3O6
